US09351974B2
Step f: Synthesis of 7-(1H-indazol-5-ylamino)-2-methyl-1-(3-methylbutyl)-4-phenyl-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one
To a stirred solution of 2-methyl-1-(3-methylbutyl)-4-phenyl-7-{[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl]amino}-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one (15 mg) in dioxane (2 mL) was added 2N aq. HCl (2 mL) at rt. The resulting mixture was stirred at rt for 2 h. LC-MS indicated completion of reaction. Dichloromethane (30 mL) was added to the reaction mixture, the organic phase was washed with aq. NaHCO3, dried over anhydrous sodium sulfate, and evaporated to give a residue, which was purified by preparative Thin-Layer Chromatography (developing solvent: 2% methanol in dichloromethane) to give the desired product (yield: 60%) 1H NMR (400 MHz, CD3OD) b 0.88 (d, J=6.4 Hz, 3H), 0.95 (d, J=6.4 Hz, 3H), 1.41 (d, J=6.82 Hz, 3H), 1.55-1.65 (m, 3H), 3.18-3.28 (m, 1H), 3.39-3.49 (m, 1H), 4.26 (q, J=6.74 Hz, 1H), 6.10 (s, 1H), 6.79 (s, 1H), 7.27-7.34 (m, 3H), 7.49-7.55 (m, 2H), 7.56-7.62 (m, 2H), 7.75 (d, J=1.52 Hz, 1H), 7.97 (s, 1H). MS(ES+): m/z 441.19 [MH+]. HPLC: tR=2.55 (ZQ3, Polar_5 min).

reactant | 2-methyl-1-(3-methylbutyl)-4-phenyl-7-{[1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl]amino}-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | 15 mg | CC1N(C2=C(N(C1=O)C1=CC=CC=C1)C=NC(=C2)NC=2C=C1C=NN(C1=CC2)C2OCCCC2)CCC(C)C | C31H36N6O2
reactant | HCl | 2N, 2 mL | Cl | ClH
reactant | Dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 7-(1H-indazol-5-ylamino)-2-methyl-1-(3-methylbutyl)-4-phenyl-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | yield: 60% | N1N=CC2=CC(=CC=C12)NC1=CC2=C(N(C(C(N2CCC(C)C)C)=O)C2=CC=CC=C2)C=N1 | C26H28N6O
